US05744021
Example 3 is repeated except that 2.53 g (10 mmol) of ethyl 2-chloro-4-(trifluoromethyl)benzoate are reacted with 0.77 g (11 mmol) of sodium thiomethoxide in 15 ml of DMF. 2.5 g of ethyl 2-methylmercapto-4-(trifluoromethyl)benzoate of high purity are obtained. It is therefore not necessary to purify by distillation.

reactant | ethyl 2-chloro-4-(trifluoromethyl)benzoate | 10 mmol, 2.53 g | ClC1=C(C(=O)OCC)C=CC(=C1)C(F)(F)F | C10H8ClF3O2
reactant | sodium thiomethoxide | 11 mmol, 0.77 g | C[S-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | ethyl 2-methylmercapto-4-(trifluoromethyl)benzoate | 2.5 g | CSC1=C(C(=O)OCC)C=CC(=C1)C(F)(F)F | C11H11F3O2S
